US09168247B2
Synthesis of Compound CV9/JR84 (See Table 1): 1-methyl-7-benzyloxy-9-benzyl-β-carboline
The title compound was synthesized from 1-methyl-7-hydroxy-β-carboline (1 g, 3.173 mmol) in presence of 1-bromomethylbenzene (1.085 g, 6.346 mmol) as described here above.

reactant | 1-methyl-7-hydroxy-β-carboline | 3.173 mmol, 1 g | CC1=NC=CC=2C3=CC=C(C=C3NC12)O | C12H10N2O
reactant | 1-bromomethylbenzene | 6.346 mmol, 1.085 g | BrCC1=CC=CC=C1 | C7H7Br
product | 1-methyl-7-benzyloxy-9-benzyl-β-carboline | Yield=66% | CC1=NC=CC=2C3=CC=C(C=C3N(C12)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H22N2O
